US06028223
A solution of 3-amino-5-[(4-methylphenyl)thio]pentanoic acid (1.0 g) [prepared according to U.S. Pat. No. 5,409,939] in methanol (50 ml) was treated with 4N HCl/dioxane (10 ml). The reaction was stirred overnight at room temperature. The excess solvent was removed under reduced pressure. Methyl 3-amino-5-[(4-methylphenyl)thio]pentanoate (1.1 g) as a white solid was obtained. MS and 1H-NMR were consistent with the desired product.

reactant | 3-amino-5-[(4-methylphenyl)thio]pentanoic acid | 1.0 g | NC(CC(=O)O)CCSC1=CC=C(C=C1)C | C12H17NO2S
reactant | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
solvent | methanol | 50 ml | CO | CH4O
product | Methyl 3-amino-5-[(4-methylphenyl)thio]pentanoate | 1.1 g | NC(CC(=O)OC)CCSC1=CC=C(C=C1)C | C13H19NO2S
